US07189741B2
C. Preparation of 2-{2-[4-(1-furan-3-ylmethyl-5-methoxy-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 3.7 g (11.9 mmol) of 1-furan-3-ylmethyl-5-methoxy-3-piperidin-4-yl-1H-indole and 3 g (13.9 mmol) of 2-(2-chloro-ethoxy)-benzoic acid methyl ester. After standard work-up, 3.2 g (57% of yield) of the expected acid were obtained.

reactant | 1-furan-3-ylmethyl-5-methoxy-3-piperidin-4-yl-1H-indole | 11.9 mmol, 3.7 g | O1C=C(C=C1)CN1C=C(C2=CC(=CC=C12)OC)C1CCNCC1 | C19H22N2O2
reactant | 2-(2-chloro-ethoxy)-benzoic acid methyl ester | 13.9 mmol, 3 g | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-{2-[4-(1-furan-3-ylmethyl-5-methoxy-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid | O1C=C(C=C1)CN1C=C(C2=CC(=CC=C12)OC)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C28H30N2O5
